*****************************************************************
* NXP PSMN3R0-60PS
*
* Polarity N-Channel
* Ratings 60V/3.000000E-003OHMS/100A
*
* Date Created Fri Nov 04 06:25:21 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R0-60PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 3.28162421113569e-09
RLG GATE 1 8.24762121083703
LS SOURCE 8 4.07259292230935e-09
RLS2 SOURCE 8 10.2355424046311
RLS1 8 7 0.00120087098670174

RDS 7 4 1200000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.000508418931472425 TC=0.0187750640994726,6.18805892664305E-05
RBD 9 4 0.0001 TC=0.0187750640994726,6.18805892664305E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 7.587e-09
RG 1 2 1.09136234292852

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	4894
+ -1	3649
+ -0.5	2798
+ -0.2	2293
+ -0.1	2166
+ 0	2064.5
+ 0.1	1894
+ 0.2	1765
+ 0.5	1526
+ 1	1281
+ 2	962
+ 5	704
+ 10	628
+ 12	609
+ 20	550
+ 25	523
+ 30	503
+ 40	454.833333333333
+ 50	407.833333333332
+ 60	360.833333333332


.MODEL MINT NMOS(Vto=3.5 Kp=5.9e+002 Nfs=380000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.3e-11
+ N=1 M=0.62 VJ=0.57 Fc=0.5 Cjo=5.303e-09 Tt=5.4e-08)

.ENDS

