*****************************************************************
* NXP PSMN3R3-100PS
*
* Polarity N-Channel
* Ratings 100V/5.000000E-003OHMS/120A
*
* Date Created Thu Jul 11 04:11:56 2013
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN3R3-100PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 7.81292696075128e-10
RLG GATE 1 1.96360271543439
LS SOURCE 8 3.61671714088329e-09
RLS2 SOURCE 8 9.08980159992898
RLS1 8 7 0.000374938986236545

RDS 7 4 2000000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.0012600513354161 TC=0.00606871298939283,5.3964112228095E-05
RBD 9 4 0.000309754720042205 TC=0.00606871298939283,5.3964112228095E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 4000000000
CGS 2 6 7.94056657230752e-09
RG 1 2 1.8

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	2451.46
+ -1	1775.21
+ -0.5	1459.08
+ -0.2	1238.9
+ -0.1	1233.33
+ 0	992.2745
+ 0.1	813.9944
+ 0.2	813.2451
+ 0.5	756.158
+ 1	694.04
+ 2	615.9868
+ 3	565.3037
+ 4	525.2792
+ 5	490.6355
+ 6	460.4614
+ 8	409.0853
+ 10	366.6155
+ 12	328.9084
+ 15	279.5219
+ 20	210.5714
+ 30	101.61777
+ 50	20.47403



.MODEL MINT NMOS(Vto=3.13944119778152 Kp=1.90583390e+002 Nfs=57000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=110 Ibv=2.500000E-004 Rs=1E-6 Is=3.91183105198288e-12
+ N=1 M=0.2 VJ=0.99 Fc=0.5 Cjo=7.506615e-09 Tt=3.996e-08)

.ENDS

