*****************************************************************
* NXP PSMN4R6-60PS
*
* Polarity N-Channel
* Ratings 60V/4.600000E-003OHMS/100A
*
* Date Created Fri Nov 04 06:38:22 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN4R6-60PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 3.28162421113569e-09
RLG GATE 1 8.24762121083703
LS SOURCE 8 3.39043524348335e-09
RLS2 SOURCE 8 8.52109316271937
RLS1 8 7 0.00106315324002631

RDS 7 4 1200000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00109753707400772 TC=0.0108874246190051,3.47294108300735E-05
RBD 9 4 0.000209258617373369 TC=0.0108874246190051,3.47294108300735E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 2000000000
CGS 2 6 4.133e-09
RG 1 2 0.781362342928517

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -2	2330
+ -1	2279
+ -0.5	1763
+ -0.2	1431
+ -0.1	1318
+ 0	1244.5
+ 0.1	1120
+ 0.2	1026
+ 0.5	881
+ 1	757
+ 2	605
+ 5	459
+ 10	401
+ 12	388
+ 20	350
+ 25	333
+ 30	318
+ 40	285.666666666667
+ 50	253.666666666667
+ 60	221.666666666667


.MODEL MINT NMOS(Vto=3.51 Kp=1.8e+002 Nfs=520000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=2.99493626792573e-12
+ N=1 M=0.61 VJ=0.76 Fc=0.5 Cjo=2.493e-09 Tt=4.5e-08)

.ENDS

