*****************************************************************
* NXP PSMN6R5_80PS
*
* Polarity N-Channel
* Ratings 80V/6.90E-03OHMS/15A
*
* Date Created Sun Oct 17 03:35:44 2010
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************
 
.SUBCKT PSMN6R5_80PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.026544
RLD1 5 4 0.00027
LG GATE 1 5.43147180559945e-10
RLG GATE 1 1.36507660078025
LS SOURCE 8 2.09181183111696e-09
RLS2 SOURCE 8 5.25729210441498
RLS1 8 7 0.000741811831116957

RDS 7 4 8000000 TC=-0.05

RS 6 7 0.0001

RD 3 4 0.0051748425211125 TC=0.00807820405705961,1.42099599406008e-05
RBD 9 4 0.000340748117360834 TC=0.00807820405705961,1.42099599406008e-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 200000000
CGS 2 6 4.16999076212471e-09
RG 1 2 0.747840585732129

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -25	3906
+ -20	3902
+ -10	3891
+ -8	3885
+ -6	3865
+ -4	3341
+ -2	2552
+ 0	0
+ 0.1	578
+ 0.2	578
+ 0.5	572
+ 1	535
+ 2	371
+ 5	311
+ 10	283
+ 20	250
+ 25	239
+ 30	230
+ 40	218



.MODEL MINT NMOS(Vto=3.8096521899253 Kp=2.6169e+02 Nfs=0 Eta=0
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Lambda=0 Is=1e-24
+ Js=0 Pb=0.8 Pbsw=0.8 Vmax=1000)

.MODEL DBD D(Bv=80.00 Ibv=2.50E-04 Rs=1E-6 Is=2.93816112755457e-12
+ N=1 M=0.62 VJ=0.99 Fc=0.5 Cjo=2.04611e-09 Tt=4.806e-08)

.ENDS

