*****************************************************************
* NXP PSMN7R6-60PS
*
* Polarity N-Channel
* Ratings 60V/7.800000E-003OHMS/92A
*
* Date Created Mon Nov 07 03:13:01 2011
*
*****************************************************************
* Model Generated by Transim Technology
*           Copyright(c) 2004
*         All Rights Reserved
*    UNPUBLISHED LICENSED SOFTWARE
*           www.transim.com
*
* Contains Proprietary Information Which
* is The Property of Transim or it's licensees.
*
* Commercial Use or Resale Restricted by
* Transim License Agreement.
*
*****************************************************************

.SUBCKT PSMN7R6-60PS DRAIN GATE SOURCE

LD DRAIN 5 2e-09
RLD2 DRAIN 5 5.02654824574367
RLD1 5 4 0.00027
LG GATE 1 2.77794920990657e-09
RLG GATE 1 6.98174786391044
LS SOURCE 8 3.36776357327138e-09
RLS2 SOURCE 8 8.46411304065334
RLS1 8 7 0.00113201211336403

RDS 7 4 1200000000 TC=-0.005

RS 6 7 0.0001

RD 3 4 0.00334166830226964 TC=0.00660654695734166,1.74628536296648E-05
RBD 9 4 0.000859460624353659 TC=0.00660654695734166,1.74628536296648E-05
DBD 7 9 DBD

M1 3 2 6 6 MINT

RGS 2 6 10000000000
CGS 2 6 2.468e-09
RG 1 2 0.972442050062452

* CGD
C11    11   12   1E-12
V11    11   0   0Vdc
G11    3 2 VALUE { V(13, 0)*I(V11) }
E11    12   0  3 2  1
E12    13   0  TABLE {V(12)}
+ -0.5	870
+ -0.2	761
+ -0.1	720
+ 0	690
+ 0.1	635
+ 0.2	594
+ 0.5	518
+ 1	443
+ 2	347
+ 5	261
+ 10	228
+ 20	198
+ 25	188
+ 30	178
+ 40	158
+ 50	138
+ 60	118


.MODEL MINT NMOS(Vto=3.8 Kp=1.6e+002 Nfs=1000000000000 Eta=1000
+ Level=3 L=1e-4 W=1e-4 Gamma=0 Phi=0.6 Is=1e-24
+ Js=0 Pb=0.8 Cj=0 Cjsw=0 Cgso=0 Cgdo=0 Cgbo=0
+ Tox=1e-07 Xj=0
+ U0=600 Vmax=1000)

.MODEL DBD D(Bv=66 Ibv=2.500000E-004 Rs=1E-6 Is=1.63138863354038e-12
+ N=1 M=0.6 VJ=0.57 Fc=0.5 Cjo=1.532e-09 Tt=4.04e-08)

.ENDS

